US04687768
Synthesis of cycloheptane-1,1-diphosphonic acid
Using the same procedure as in Example I, tetraisopropyl methane diphosphonic acid was converted to tetraisopropyl cycloheptane-1,1-diphosphonate by reaction with 1,6-dibromohexane at 80° C. for 18 h. 31P NMR (toluene) indicated that the reaction solution contained a mixture of the desired tetraisopropyl cycloheptane-1,1-diphosphonate (25.3 ppm) and octaisopropyl octane-1,1,8,8-tetraphosphonate (22.1 ppm). The compounds were separated by chromatography (1:1 hexane:THF eluent) on silica gel, and the desired ester was hydrolyzed using 6N refluxing hydrochloric acid as in Example I.

reactant | tetraisopropyl methane diphosphonic acid | C(C)(C)OP(=O)(OC(C)C)CP(OC(C)C)(=O)OC(C)C | C13H30O6P2
reactant | tetraisopropyl cycloheptane-1,1-diphosphonate | C1(CCCCCC1)(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C | C19H40O6P2
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | octaisopropyl octane-1,1,8,8-tetraphosphonate | C(CCCCCCC(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C)(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C | C32H70O12P4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cycloheptane-1,1-diphosphonic acid | C1(CCCCCC1)(P(O)(=O)O)P(O)(=O)O | C7H16O6P2
